US06617325B1
b. methyl 2-methyl-2-phenyl-6-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-piperidin-1-yl}-hexanecarboxylate
0.2 g (0.574 mmol) of 4′-trifluoromethyl-biphenyl-2-carboxylic acid-piperidin-4-yl-amide, 0.15 g (0.5 mmol) of methyl 6-bromo-2-methyl-2-phenyl-hexanecarboxylate and 0.083 g (0.6 mmol) of potassium carbonate are dissolved in 10 ml of acetonitrile. The mixture is stirred for 8 hours at 60° C. and for 14 hours at ambient temperature. Then the reaction mixture is poured onto water and extracted with ethyl acetate. The organic phase is dried over sodium sulphate and the solvent is distilled off in the rotary evaporator. After column chromatography on silica gel (eluant: dichloromethane/methanol=20:1) a highly viscous oil remains.

reactant | 4′-trifluoromethyl-biphenyl-2-carboxylic acid-piperidin-4-yl-amide | 0.574 mmol, 0.2 g | N1CCC(CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C19H19F3N2O
reactant | methyl 6-bromo-2-methyl-2-phenyl-hexanecarboxylate | 0.5 mmol, 0.15 g | BrCCCCC(CC(=O)OC)(C1=CC=CC=C1)C | C15H21BrO2
reactant | potassium carbonate | 0.6 mmol, 0.083 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | methyl 2-methyl-2-phenyl-6-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-piperidin-1-yl}-hexanecarboxylate | CC(CC(=O)OC)(CCCCN1CCC(CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C34H39F3N2O3
